US08440673B2
A mixture of ethyl isobutyrylacetate (15 mmol, 0.42 mL) and N,N-dimethylformamide dimethyl acetal (37.5 mmol, 5 mL) was heated to reflux for 16 hours, then cooled. The volatiles were removed in vacuo to give 1.60 g of 2-dimethylaminomethylene-4-methyl-3-oxo-pentanoic acid ethyl ester.

reactant | ethyl isobutyrylacetate | 15 mmol, 0.42 mL | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | N,N-dimethylformamide dimethyl acetal | 37.5 mmol, 5 mL | COC(N(C)C)OC | C5H13NO2
product | 2-dimethylaminomethylene-4-methyl-3-oxo-pentanoic acid ethyl ester | 1.60 g | C(C)OC(C(C(C(C)C)=O)=CN(C)C)=O | C11H19NO3
